US07129232B2
To a stirred solution of ethyl 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoate (1.3 g) in tetrahydrofuran (30 ml) was added 1N aqueous sodium hydroxide solution (3.1 ml), and the mixture was stirred at room temperature for 3 hours. Tetrahydrofuran was removed in vacuo and the residue was made acidic with diluted citric acid. The resulting precipitate was collected by filtration and dried under reduced pressure to give 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoic acid (1.22 g).

reactant | ethyl 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoate | 1.3 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)OCC)=O | C28H28N4O3
reactant | sodium hydroxide | 1N, 3.1 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoic acid | 1.22 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)O)=O | C26H24N4O3
